US09290511B2
5-Bromo-4-chloro-thieno[2,3-d]pyrimidine (1.0 g, 4.0 mmol) in acetonitrile (25 mL) was treated with 8-azabicyclo[3.2.1]octan-3-ylmethanol (705 mg, 16 mmol) and potassium carbonate (2.208 g, 16 mmol) at reflux for 4 h. The reaction was then concentrated in vacuum to a gum and partitioned between ethyl acetate (100 mL) and water (50 mL). The ethyl acetate was separated, dried over sodium sulphate and concentrated in vacuum to give a yellow gum. The gum was columned on silica in a gradient of 2-8% methanol in dichloromethane on a 100 g column. The main first fraction was collected and concentrated in vacuum to a gum. The gum was triturated with diethyl ether (20 mL) and crystallized on standing for a few minutes. The diethyl ether was decanted off and the crystals dried in vacuum to yield 3 [8-(5-bromothieno[2,3-d]pyrimidin-4-yl)-8-azabicyclo[3.2.1]octan-3-yl]methanol (1.297 g, 3.66 mmol, 91%). 1H NMR (CDCl3) δ: 1.42 (2H, dd, J=12 Hz, J′=4 Hz), 1.67 (2H, d, J=4 Hz), 1.82 (1H, br s), 1.98 (3H, br m), 2.48 (2H, quintet, J=4 Hz), 3.64 (2H, d, J=4 Hz), 4.7 (2H, br s), 7.32 (1H, s), 8.45 (1H, s).

reactant | 5-Bromo-4-chloro-thieno[2,3-d]pyrimidine | 4.0 mmol, 1.0 g | BrC1=CSC=2N=CN=C(C21)Cl | C6H2BrClN2S
reactant | 8-azabicyclo[3.2.1]octan-3-ylmethanol | 16 mmol, 705 mg | C12CC(CC(CC1)N2)CO | C8H15NO
reactant | potassium carbonate | 16 mmol, 2.208 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | CO | CH4O
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | [8-(5-bromothieno[2,3-d]pyrimidin-4-yl)-8-azabicyclo[3.2.1]octan-3-yl]methanol | 3.66 mmol, 1.297 g, 91% | BrC1=CSC=2N=CN=C(C21)N2C1CC(CC2CC1)CO | C14H16BrN3OS
